Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
unresponsiveness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ right-handed man with history 
notable
for right-sided ischemic infarct, atrial fibrillation (on
apixaban), vascular dementia, DMII, HTN, and ___
transferred from ___ after presenting following an 
episode
of unresponsiveness.

Unfortunately, staff who witnessed the above episode at ___ could not be reached at time of consultation;
however, per discussion with covering staff, Mr. ___ was
reportedly in his usual state of health this morning, but was
then noted to have abrupt onset of decreased responsiveness 
while
at breakfast at around 08:30; during this time, Mr. ___ was
not speaking and was "staring ahead" without additional 
movements
or notable symptoms. Per ___ records, Mr. ___ was
described as "catatonic" by EMS at time of their evaluation, but
was responsive and reported only a "dull" bifrontal headache at
time of their evaluation. No additional symptoms were noted at
that time, and no further history was available. Mr. ___
underwent imaging with CXR, NCHCT, and CTA, which were notable
for distal left MCA and proximal bilateral vertebral artery
stenoses, but were otherwise negative for large vessel-territory
infarct, hemorrhage, or mass.

Mr. ___ himself does not have a recollection of the above
event, noting only that he is "not feeling well" and felt "a bit
confused" during the above. He does note one of the providers at
___ telling him about an episode of speech arrest. He 
also
does report a remote history of a prior seizure, ostensibly
generalized (though without clear details), although this is not
noted in his records from his facility.

On review of systems, aside from the above, Mr. ___ denies
recent vertigo, vision change, dysarthria, dysphagia, focal
weakness, paresthesiae, bowel or bladder incontinence, fevers,
chills, nausea, vomiting, chest discomfort, abdominal pain, or
changes in bowel or bladder habits.
 
Past Medical History:
Right-sided ischemic infarct
Atrial fibrillation (on apixaban)
Vascular dementia
DMII
HTN
Psoriasis  
 
Social History:
___
Family History:
no contributory
 
Physical Exam:
ADMISSION EXAM: 
General: Reclined in gurney in NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Neck: Supple
 Pulmonary: No tachypnea or increased WOB
 Cardiac: Warm, well-perfused
 Abdomen: soft, ND
 Extremities: No ___ edema
 Skin: no rash

NEURO EXAM
MS: slow soft speech, posturing, bradykinesia. oriented to
hospital, ___. Correct year chosen when 
given
options. Can name ___ backwards but slowly.
CN: PERRL 3-->2. Eye movements full and conjugate without
nystagmus. Flat smile. Strong eye closure. Facial sensation
intact. Delayed initiation of left sided shoulder shrug. 
Coordination: Tremoring of left hand with arms outstretched.
Dysmetria and pass pointing with FnF on the left. 
Tone: increased in the left arm shoulder/elbow/wrist with
cogwheeling. increased in the right particularly at the elbow,
some cogwheeling with augmentation. increased in legs 
bilaterally
Sensation: grossly intact

=========================
DISCHARGE EXAM:
MS: Awake, alert. oriented to name and hospital. 
Can name ___ backwards but slowly.
CN: PERRL 3-->2. Eye movements full and conjugate without
nystagmus. Flat smile. Strong eye closure. Facial sensation
intact. Delayed initiation of left sided shoulder shrug. 
Coordination: Mild tremor in LUE w/ posturing.
Dysmetria and pass pointing with FnF on the left. 
Tone: increased in the left arm shoulder/elbow/wrist with
cogwheeling. increased in the right particularly at the elbow,
some cogwheeling with augmentation. increased in legs 
bilaterally, generally improved from yesterday's exam
Sensation: grossly intact

 
Pertinent Results:
___ 01:45PM BLOOD WBC-5.5 RBC-4.86 Hgb-13.5* Hct-36.9* 
MCV-76* MCH-27.8 MCHC-36.6 RDW-15.4 RDWSD-42.1 Plt ___
___ 01:45PM BLOOD Neuts-55.5 ___ Monos-8.0 Eos-2.6 
Baso-1.1* Im ___ AbsNeut-3.05 AbsLymp-1.79 AbsMono-0.44 
AbsEos-0.14 AbsBaso-0.06
___ 01:45PM BLOOD Plt ___
___ 01:45PM BLOOD ___ PTT-27.7 ___
___ 01:45PM BLOOD Glucose-123* UreaN-13 Creat-1.1 Na-135 
K-6.7* Cl-101 HCO3-20* AnGap-14
___ 01:45PM BLOOD ALT-13 AST-38 AlkPhos-67 TotBili-0.6
___ 01:45PM BLOOD Albumin-4.0
___ 12:05PM BLOOD Ammonia-<10
___ 01:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:23PM BLOOD K-4.6
 
Brief Hospital Course:
Patient was admitted to the Neurology Service on ___ after 
being evaluated in ___ ED for episode of unresponsiveness; his 
infectious workup for systemic, pulmonary, and urinary 
infections were negative in the ED, however an LP was unable to 
be performed due to his anticoagulation. His vital signs 
remained stable throughout his stay in the neurology unit. 
Patient was placed on cvEEG for 24 hours and results showed 
diffuse attenuation of activity, a lot of beta activity which 
may be due to his medication regimen, but no evidence of 
seizures or epileptic activity (final report pending at time of 
discharge). As such, no long-term anti-epileptic medication is 
indicated at this time. He returned to his baseline mental 
status, which was determined in discussion with his long-term 
care facility, by the morning after admission. Mr. ___ also 
exhibited multiple Parkinsonian features on his neurological 
exam including delayed initiation of movements and L>R motor 
rigidity that increased with augmentation (contralateral fist 
opening and closing). We tapered Mr. ___ off haldol given 
that we suspect his Parkinsonian features are due to haldol. For 
future episodes of agitation we recommend seroquel PRN. 
 
Medications on Admission:
1.  Apixaban 5 mg PO BID  
2.  Atorvastatin 60 mg PO QPM  
3.  Labetalol 100 mg PO BID  
4.  Losartan Potassium 25 mg PO DAILY  
5.  Valproic Acid ___ mg PO Q12H  
6.  Haloperidol 05.mg AM 1mg ___
 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Atorvastatin 60 mg PO QPM  
3.  Labetalol 100 mg PO BID  
4.  Losartan Potassium 25 mg PO DAILY  
5.  Valproic Acid ___ mg PO Q12H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Parkinsonism (likely medication related)
Unclear explanation for unresponsive event

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
You were hospitalized due to decreased responsiveness. This may 
have been a seizure, however we cannot know for sure. We also 
decreased your haloperidol to help with some of your 
symptoms.factors.
We are changing your medications as follows: 
Stop your haldol 
Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___